US04360464
A mixture of 21.8 g of p-aminophenol, 22 g of 1-(tert.-butyl)-3-azetidinol and 0.73 g of potassium hydroxide was heated under nitrogen gas at 140° C. for 8 hours with agitation. The reaction mixture was cooled and dissolved in concentrated hydrochloric acid and the solution was extracted with ether. The hydrochloric acid aqueous solution was made alkaline with 10% -NaOH aqueous solution and then extracted with ether. The ether solution was washed with water and dried over anhydrous sodium sulfate. Then ether was distilled off and the residue was recrystallized from benzene. as a result, 8 g of 1-(p-aminophenoxy)-3-(tert.-butylamino)-2-propanol melting at 125°-127° C. were obtained. The results of infra-red spectrum analysis and nuclear magnetic resonance analysis are as follows:

reactant | p-aminophenol | 21.8 g | C1=CC(=CC=C1N)O | C6H7NO
reactant | 1-(tert.-butyl)-3-azetidinol | 22 g | C(C)(C)(C)N1CC(C1)O | C7H15NO
reactant | potassium hydroxide | 0.73 g | [OH-].[K+]
solvent | hydrochloric acid | Cl | ClH
product | 1-(p-aminophenoxy)-3-(tert.-butylamino)-2-propanol | 8 g | NC1=CC=C(OCC(CNC(C)(C)C)O)C=C1 | C13H22N2O2
